US07101891B2
9-Chloro-3-methyl-5-[1-(4-phenyl-butyryl)-piperidin-3-yl]-5H-isoxazolo[4,3-c]quinolin-4-one
Dissolve 3-(2-chloro-6-fluoro-phenyl)-5-methyl-isoxazole-4-carboxylic acid[1-(4-phenyl-butyryl)-piperidin-3-yl]-amide (300 mg, 0.62 mmol) in N,N-dimethyl-formamide (4 mL) at ambient temperature under a nitrogen atmosphere. Add a solution of potassium bis(trimethylsilyl)amide (0.5 M in toluene, 1.49 mL, 0.75 mmol) and stir for 20 min. at ambient temperature. Quench with water and follow by adding of solid sodium chloride. Extract with ethyl acetate and wash with water and dry over sodium sulfate. Concentrate and elute over silica gel to give 83 mg (29%) of the desired product. MS(ES): (M+1)+ 464.1, 466.1 m/z.

reactant | 3-(2-chloro-6-fluoro-phenyl)-5-methyl-isoxazole-4-carboxylic acid[1-(4-phenyl-butyryl)-piperidin-3-yl]-amide | 0.62 mmol, 300 mg | C1(=CC=CC=C1)CCCC(=O)N1CC(CCC1)NC(=O)C=1C(=NOC1C)C1=C(C=CC=C1F)Cl | C26H27ClFN3O3
reactant | potassium bis(trimethylsilyl)amide | 0.75 mmol, 0.5 M, 1.49 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
solvent | N,N-dimethyl-formamide | 4 mL | CN(C=O)C | C3H7NO
product | 9-Chloro-3-methyl-5-[1-(4-phenyl-butyryl)-piperidin-3-yl]-5H-isoxazolo[4,3-c]quinolin-4-one | 83 mg, 29% | ClC=1C=2C=3C(C(N(C2C=CC1)C1CN(CCC1)C(CCCC1=CC=CC=C1)=O)=O)=C(ON3)C | C26H26ClN3O3
